US09169254B2
A 1.5 M solution of n-butyllithium in tetrahydrofuran (0.57 mL) was added to a solution of 1-bromo-4-pentafluoroethylbenzene (180 mg, 0.65 mmol) in diethyl ether (1.0 mL) at −78° C., and the mixture was stirred for 20 minutes. Thereafter, trimethyl borate (101 mg, 3.28 mmol) was added and the mixture was stirred at −78° C. for 10 minutes and at room temperature for 30 minutes. 6 N aqueous hydrochloric acid (200 μL) was added to the reaction mixture, and the reaction was terminated. The mixture was then purified by silica gel column chromatography to give 4-pentafluoroethylphenylboronic acid as a white solid (111 mg, 71%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-pentafluoroethylbenzene | 0.65 mmol, 180 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)(F)F | C8H4BrF5
reactant | trimethyl borate | 3.28 mmol, 101 mg | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 6 N, 200 μL | Cl | ClH
solvent | tetrahydrofuran | 0.57 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 1.0 mL | C(C)OCC | C4H10O
product | 4-pentafluoroethylphenylboronic acid | 111 mg, 71% | FC(C(F)(F)F)(C1=CC=C(C=C1)B(O)O)F | C8H6BF5O2
